US05140031
A. N-Cyano-N'-(1,1-dimethylpropyl)thiourea
To a suspension of monosodium cyanamide (0.64 g, 10 mmol) in absolute ethanol (30 mL), 1,1-dimethylpropylisothiocyanate (1.29 g, 10 mmol) was added slowly at room temperature. Exothermic reaction occurred during addition and near the end of the addition, the initially heterogeneous mixture became a homogeneous solution. It was allowed to stir at room temperature for 2 hours and then heated at 75° C. for 1 hour. The reaction mixture was cooled to room temperature and the solid was filtered. The filtrate solution was concentrated to yield the title A compound (1.6 g) as a colorless solid.

reactant | monosodium cyanamide | 10 mmol, 0.64 g | N#CN.[Na]
reactant | 1,1-dimethylpropylisothiocyanate | 10 mmol, 1.29 g | CC(CC)(C)N=C=S | C6H11NS
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | N-Cyano-N'-(1,1-dimethylpropyl)thiourea | 1.6 g | C(#N)NC(=S)NC(CC)(C)C | C7H13N3S
